US07125870B2
iso-Butylchloroformate (6.83 g, 50.0 mmol) was added to a solution of itaconic acid mono-n-butyl ester (9.31 g, 50.0 mmol) and triethylamine (5.06 g, 50.0 mmol) in THF (40 mL) under a nitrogen atmosphere and cooled to 0° C. The reaction was stirred for 0.5 h, filtered to remove the solids, added to a solution of sodium borohydride (3.78 g, 100.0 mmol) in water (20 mL), and cooled to 10° C. The reaction was stirred for 2 h, made acidic with 3 N HCl and extracted with ethyl ether (3×). The combined organic layers were washed with brine, dried over magnesium sulfate, and concentrated to give an oil. The product was purified by FCC on silica gel, eluting ethyl acetate:hexanes (1:2) to give 3-hydroxymethyl-but-3-enoic acid butyl ester (2.56 g, 30%) as an oil. MS found: (M+H)+=173.

reactant | iso-Butylchloroformate | 50.0 mmol, 6.83 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | itaconic acid mono-n-butyl ester | 50.0 mmol, 9.31 g | C(CCC)OC(C(=C)CC(=O)O)=O | C9H14O4
reactant | triethylamine | 50.0 mmol, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 100.0 mmol, 3.78 g | [BH4-].[Na+]
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 3-hydroxymethyl-but-3-enoic acid butyl ester | 2.56 g, 30% | C(CCC)OC(CC(=C)CO)=O | C9H16O3
